US07968573B2
After 0.19 g of 6-chloro-2-[3-(2-chlorophenyl)-1-methyl-1H-pyrazol-4-yl]-8-methyl-4H-3,1-benzoxazine-4-one, 0.10 g of hydrazine monohydrate and 10 ml of N-methylpyrrolidinone were mixed under ice-cooling, the mixture was stirred at room temperature for 8 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 0.18 g of N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-3-(2-chlorophenyl)-1-methyl-1H-pyrazole-4-carboxamide of the formula:

reactant | 6-chloro-2-[3-(2-chlorophenyl)-1-methyl-1H-pyrazol-4-yl]-8-methyl-4H-3,1-benzoxazine-4-one | 0.19 g | ClC=1C=C(C2=C(C(OC(=N2)C=2C(=NN(C2)C)C2=C(C=CC=C2)Cl)=O)C1)C | C19H13Cl2N3O2
reactant | hydrazine monohydrate | 0.10 g | O.NN
reactant | N-methylpyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | Water | O | H2O
product | N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-3-(2-chlorophenyl)-1-methyl-1H-pyrazole-4-carboxamide | 0.18 g | ClC1=CC(=C(C(=C1)C)NC(=O)C=1C(=NN(C1)C)C1=C(C=CC=C1)Cl)C(=O)NN | C19H17Cl2N5O2
